US07906537B2
(2-Chloro-4-nitrophenyl)-carbamic acid ethyl ester
A suspension of MgO (2.0 g), 2-chloro-4-nitroaniline (3.768 g, 21.83 mmol) and ethyl chloroformate (5 mL) in acetonitrile (25 mL) was heated to reflux temperature for 4 hours followed by addition of more ethyl chloroformate (4 mL). The heating was continued until full conversion (20 hours) then the reaction mixture was filtered via a plug of SiO2 (5 g) with ethyl acetate as an eluent. Evaporation in vacuo (50° C.) gave 5.8 g (100% yield) of crude title compound which was used in the next step without further purification. LC/MS (m/z) 245 ([M+H]+); RT=2.95, (UV, ELSD) 96%, 98.5%. 1H NMR (DMSO-d6): 1.27 (t, 3H), 4.19 (q, 2H), 8.06 (d, 1H), 8.19 (dd, 1H), 8.30 (d, 1H), 9.49 (s, NH).

reactant | 2-chloro-4-nitroaniline | 21.83 mmol, 3.768 g | ClC1=C(N)C=CC(=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | ethyl chloroformate | 5 mL | ClC(=O)OCC | C3H5ClO2
reactant | ethyl chloroformate | 4 mL | ClC(=O)OCC | C3H5ClO2
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | (2-Chloro-4-nitrophenyl)-carbamic acid ethyl ester | 5.8 g, 100% yield | C(C)OC(NC1=C(C=C(C=C1)[N+](=O)[O-])Cl)=O | C9H9ClN2O4
